US08058313B2
To a round bottom flask containing mercaptoacetic acid (0.1 mol) dissolved in methanol (25 mL) is added 4-chloro-3-oxobutanoic acid (0.1 mol). The resulting mixture is heated at reflux temperature for about 2 hours. When the reaction is complete, the mixture is allowed to cool to room temperature (22-25° C.). Volatiles are removed under vacuum and the resulting residue is purified by column chromatography to yield 4-(carboxymethylthio)-3-oxobutanoic acid.

reactant | mercaptoacetic acid | 0.1 mol | SCC(=O)O | C2H4O2S
reactant | 4-chloro-3-oxobutanoic acid | 0.1 mol | ClCC(CC(=O)O)=O | C4H5ClO3
solvent | methanol | 25 mL | CO | CH4O
product | 4-(carboxymethylthio)-3-oxobutanoic acid | C(=O)(O)CSCC(CC(=O)O)=O | C6H8O5S
